data/mechanism_extracts/NatCommun/10.1038_s41467-023-42106-8.json
{"doi": "10.1038_s41467-023-42106-8", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Metal-free electrochemical dihydroxylation of unactivated alkenes using Et4NI/NH4I as iodide mediators and water as the oxygen source, proceeding via in-situ generated iodine and an epoxide intermediate", "mechanism_family": ["mediator_anodic", "radical_polar_crossover", "electrocatalysis_outer_sphere"], "electrochemical_role": "Anodic oxidation of iodide (I-) to iodine radical/I2, which acts as the alkene-activating mediator; anode also oxidizes Et3N (generated from Et4N+ decomposition) to an α-aminoalkyl radical that abstracts iodine from an alkyl iodide intermediate; cathode evolves H2", "key_intermediates": [{"name": "iodine (I2) generated from anodic oxidation of I-", "smiles": "II", "role": "reactive"}, {"name": "iodonium intermediate (Int-I) from alkene + I2", "smiles": null, "role": "transient"}, {"name": "β-iodo alcohol (Int-II / compound 4) from water addition to iodonium", "smiles": null, "role": "reactive"}, {"name": "α-aminoalkyl radical from electrooxidation of Et3N", "smiles": null, "role": "reactive"}, {"name": "β-hydroxy carbon radical (Int-III) after I-atom abstraction", "smiles": null, "role": "transient"}, {"name": "epoxide intermediate (Int-IV / compound 3i) from intramolecular cyclization/ring closure", "smiles": null, "role": "reactive"}, {"name": "vicinal diol product (2a)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes I- to I• which dimerizes to I2; I2 forms an iodonium with the alkene that is opened by H2O to give a β-iodo alcohol (4). In parallel, the anode oxidizes Et3N (from Et4N+) to an α-aminoalkyl radical that abstracts the C-I of 4, giving a carbon radical that loses an electron and cyclizes to an epoxide (3i); H2O then opens the epoxide to the diol (2a), while the cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "H2 18-O (isotope labeling)", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "Product 2a incorporates 18O in both hydroxyl groups (HRMS m/z 299.1392 vs calc 299.1390), showing both OH groups come from water"}, {"name": "I2 (stoichiometric, no electricity)", "smiles": "II", "purpose": "intermediate_trap", "observation": "Reaction of 1a with I2 in the dark without current gave iodo-alcohols 4 (21%) and 4' (9%), supporting I2 as the alkene-activating mediator"}, {"name": "isolated β-iodo alcohol 4 (stoichiometric intermediate)", "smiles": null, "purpose": "intermediate_trap", "observation": "Under condition A, 4 gave 2a in 82%; without electricity 4 was recovered (93%), confirming 4 as a key on-cycle intermediate requiring current"}, {"name": "isolated epoxide 3i (stoichiometric intermediate)", "smiles": null, "purpose": "intermediate_trap", "observation": "3i gave 2a in 85% under condition A; without electricity 3i was recovered (95%), confirming epoxide as downstream intermediate"}, {"name": "Omission of Et4NI; use NH4I/TFA only", "smiles": null, "purpose": "other", "observation": "No 2a formed and 4 recovered (92%), indicating Et4N+ (source of Et3N) is required to convert 4 onward"}, {"name": "Et3N added to 4 with current", "smiles": "CCN(CC)CC", "purpose": "intermediate_trap", "observation": "2a obtained in 27% with current; no product without electricity, confirming electrooxidation of tertiary amine to α-aminoalkyl radical is required for C-I activation"}, {"name": "Et4NBF4 (non-iodide electrolyte) with 4 under current", "smiles": null, "purpose": "other", "observation": "Time-course showed 4 decreasing, 3i rising then falling, 2a increasing — demonstrating sequential 4 → 3i → 2a conversion"}, {"name": "Cyclic voltammetry of Et4NI at variable scan rates", "smiles": null, "purpose": "redox_probe", "observation": "Linear ip vs v^1/2 plots (R2 = 0.9753, 0.9983) indicate diffusion-controlled oxidation of iodide"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_other", "stoichiometric_intermediate", "isolation_of_intermediate", "cyclic_voltammetry", "on/off_light_or_current", "kinetic_order"], "evidence_strength": "strong", "notes": "Both hydroxyl oxygens of the diol originate from water (18O labeling). The mechanism invokes a dual mediator system: iodide for alkene activation and in-situ-generated Et3N (from Et4N+ decomposition) for halogen atom transfer via an α-aminoalkyl radical. The epoxide (Int-IV) and an iodo-cyclic oxocarbenium-type Int-III are proposed to be in equilibrium, with water opening to give the diol. GC-MS detection of Et3N supports the amine-mediator hypothesis."}
